US06642395B1
1) Preparation of (R)-2-(4-chlorophenyl)-2-hydroxyethyl Methanesulfonate
Into toluene (10 ml) were added 2-(4-chlorophenyl)-2-(3,4,5,6-tetrahydro-[2H]-pyran-2-yloxy)ethyl methanesulfonate (3.0 g), p-toluenesulfonic acid monohydrate (1.7 g) and methanol (0.5 g), and the resulting mixture was stirred at 50° C. for 1 hour. The reaction mixture was washed with a saturated aqueous sodium hydrogen carbonate solution, then with a saturated aqueous sodium chloride solution, and dried with anhydrous magnesium sulfate. The desiccant was filtered off and then the solvent was distilled off under reduced pressure to obtain a colorless oily compound mentioned above (2.0 g, 89.0%).

reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-(4-chlorophenyl)-2-(3,4,5,6-tetrahydro-[2H]-pyran-2-yloxy)ethyl methanesulfonate | 3.0 g | CS(=O)(=O)OCC(OC1OCCCC1)C1=CC=C(C=C1)Cl | C14H19ClO5S
reactant | p-toluenesulfonic acid monohydrate | 1.7 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 0.5 g | CO | CH4O
product | (R)-2-(4-chlorophenyl)-2-hydroxyethyl Methanesulfonate | CS(=O)(=O)OC[C@H](O)C1=CC=C(C=C1)Cl | C9H11ClO4S
